US07456164B2
Intermediate 53: 4-{4-[(1-isopropylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-carbothioamide
The title compound (320 mg, 74%) was prepared from 4-[4-(1-isopropylpiperidin-4-yloxy)phenyl]tetrahydropyran-4-carbonitrile and diethyl dithiophosphate similarly to the procedure used for intermediate 50. LRMS APCI+ m/z 363 [MH]+.

reactant | 4-[4-(1-isopropylpiperidin-4-yloxy)phenyl]tetrahydropyran-4-carbonitrile | C(C)(C)N1CCC(CC1)OC1=CC=C(C=C1)C1(CCOCC1)C#N | C20H28N2O2
reactant | diethyl dithiophosphate | P(=S)(SCC)(OCC)[O-]
product | 4-{4-[(1-isopropylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-carbothioamide | 320 mg, 74% | C(C)(C)N1CCC(CC1)OC1=CC=C(C=C1)C1(CCOCC1)C(N)=S | C20H30N2O2S
